US08008307B2
Step e: [(1R,2R,3S,4R)-4-({6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}-amino)-2,3-dihydroxycyclopentyl]methyl sulfamate (Compound I-29)
A solution of [(3aR,4R,6R,6aS)-6-({6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]-methyl sulfamate (60.0 mg, 0.126 mmol) was treated with a 9:1 mixture of trifluoroacetic acid in H2O (5.00 mL, 58.4 mmol) and the mixture was stirred for 10 min before being concentrated in vacuo. The crude material was purified via reverse phase C18 preparative HPLC eluting with a gradient of 5 to 70% of 0.1% FA/95% ACN/5% H2O in 0.1% FA/99% H2O/1% ACN over 16 min to afford the title compound (27.0 mg, 49%). 1H NMR (400 MHz, DMSO-d6, δ): 8.13 (s, 1H), 7.98 (s, 1H), 7.44 (s, 2H), 7.28-7.02 (m, 5H), 6.72 (bs, 1H), 5.53 (s, 1H), 5.41 (s, 1H), 4.63 (d, J=5.3 Hz, 1H), 4.09 (dd, J=5.1, 9.5 Hz, 1H), 3.97 (dd, J=7.0, 9.5 Hz, 1H), 3.81 (bs, 1H), 3.71-3.60 (m, 2H), 3.01-2.87 (m, 1H), 2.87-2.70 (m, 1H), 2.47-2.37 (m, 1H), 2.30-2.09 (m, 2H), 1.89-1.72 (m, 1H), 1.19-1.05 (m, 1H) ppm. LC/MS: Rt=1.13 min, ES+ 436 (AA standard).

reactant | [(3aR,4R,6R,6aS)-6-({6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl]-methyl sulfamate | 0.126 mmol, 60.0 mg | S(N)(OC[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)NC2=NC=NC(=C2)N[C@H]2CCC1=CC=CC=C21)(=O)=O | C22H29N5O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | H2O | 58.4 mmol, 5.00 mL | O | H2O
product | [(1R,2R,3S,4R)-4-({6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}-amino)-2,3-dihydroxycyclopentyl]methyl sulfamate | 27.0 mg, 49% | S(N)(OC[C@@H]1[C@H]([C@H]([C@@H](C1)NC1=NC=NC(=C1)N[C@H]1CCC2=CC=CC=C12)O)O)(=O)=O | C19H25N5O5S
